US07612211B2
B. 2-(3′,4′-diamino-biphenyl-2-sulfonyl)-ethanol
[4-tert-butoxycarbonylamino-2′-(2-hydroxy-ethanesulfonyl)-biphenyl-3-yl]-carbamic acid tert-butyl ester (0.233 g, 0.476 mmol) in a solution of 4M HCl in dioxane (6 mL) was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in EtOAc, and the solution was washed with saturated sodium bicarbonate and water (pH=7). The organic layer was dried over Na2SO4, filtered, and the filtrate was concentrated in vacuo to provide the title compound as a yellow oil (0.136 g, 98%).

reactant | [4-tert-butoxycarbonylamino-2′-(2-hydroxy-ethanesulfonyl)-biphenyl-3-yl]-carbamic acid tert-butyl ester | 0.476 mmol, 0.233 g | C(C)(C)(C)OC(NC=1C=C(C=CC1NC(=O)OC(C)(C)C)C1=C(C=CC=C1)S(=O)(=O)CCO)=O | C24H32N2O7S
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 2-(3′,4′-diamino-biphenyl-2-sulfonyl)-ethanol | 0.136 g, 98% | NC=1C=C(C=CC1N)C=1C(=CC=CC1)S(=O)(=O)CCO | C14H16N2O3S
